US07247645B2
1) Synthesis of 3,3-diphenylpropyl 4-(2-chloroethoxy)acetoacetate:
A solution of 2.09 g (26 mmol) of 2-chloroethanol in 10 ml of tetrahydrofuran was added dropwise to a suspension of 1.84 g (46 mmol) of sodium hydride (60% oily) in 100 ml of tetrahydrofuran at −50° C., and they were stirred for 2 hours. A solution of 7.51 g (20 mmol) of 3,3-diphenylpropyl 4-bromoacetoacetate in 3 ml of tetrahydrofuran was added dropwise to the reaction mixture at −50° C. The temperature was elevated to room temperature, and they were stirred overnight. A small amount of hydrochloric acid was added to the reaction mixture. After the concentration followed by the fractionation with ethyl acetate and water, the extract was washed with 1 N sodium hydroxide and saturated aqueous sodium chloride solution and then dried over sodium sulfate to obtain the title compound.

reactant | 2-chloroethanol | 26 mmol, 2.09 g | ClCCO | C2H5ClO
reactant | sodium hydride | 46 mmol, 1.84 g | [H-].[Na+]
reactant | 3,3-diphenylpropyl 4-bromoacetoacetate | 20 mmol, 7.51 g | BrCC(CC(=O)OCCC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C19H19BrO3
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 3,3-diphenylpropyl 4-(2-chloroethoxy)acetoacetate | ClCCOCC(CC(=O)OCCC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H23ClO4
